US04450169
2.1 g of manganese dioxide were added to a mixture of 0.5 g of (2-benzyl-4-thiazolyl)-methanol and 10 ml of benzene and the mixture was stirred at 20° C. for 20 hours and was filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica gel.Elution with a 7-3 hexane-ethyl acetate mixture yielded 0.3 g of (2-benzyl-4-thiazolyl)-methanal melting at 78° C.

reactant | (2-benzyl-4-thiazolyl)-methanol | 0.5 g | C(C1=CC=CC=C1)C=1SC=C(N1)CO | C11H11NOS
catalyst | manganese dioxide | 2.1 g | [O-2].[O-2].[Mn+4]
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | (2-benzyl-4-thiazolyl)-methanal | 0.3 g | C(C1=CC=CC=C1)C=1SC=C(N1)C=O | C11H9NOS
